data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1OC.[H+]", "products": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1OC"}, {"reactants": "COc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1OC", "products": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1OC.O"}, {"reactants": "COc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1OC", "products": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1OC"}, {"reactants": "COc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1OC", "products": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1OC"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1OC.O", "products": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1OC"}, {"reactants": "COc1cccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1OC", "products": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1OC"}, {"reactants": "COc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1OC", "products": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1OC"}, {"reactants": "COc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1OC", "products": "COc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(C)ccc1C(=O)C1C2CCC1C2", "products": "COc1cc(C)ccc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1cc(C)ccc1[C]([O])C1C2CCC1C2", "products": "COc1cc(C)ccc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1cc(C)ccc1C([O])=CC1C[CH]CC1", "products": "COc1cc(C)ccc1C(O)=CC1C=CCC1"}, {"reactants": "COc1cc(C)ccc1C(O)=CC1C=CCC1", "products": "COc1cc(C)ccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)ccc1Cl", "products": "Cc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)ccc1Cl"}, {"reactants": "Cc1cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)ccc1Cl", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)c(C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)c(C)c1", "products": "Cc1cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)ccc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "[H]C1(C(=O)c2ccccc2)C2CCC1C2", "products": "[H]C1([C]([O])c2ccccc2)C2CCC1C2"}, {"reactants": "[H]C1([C]([O])c2ccccc2)C2CCC1C2", "products": "[O]C(c1ccccc1)=CC2CC[CH]C2"}, {"reactants": "[O]C(c1ccccc1)=CC2CC[CH]C2", "products": "OC(c1ccccc1)=CC1C=CCC1"}, {"reactants": "OC(c1ccccc1)=CC1C=CCC1", "products": "O=C(c1ccccc1)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(F)(OC3Cl)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OC(Cl)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OC(Cl)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OC(Cl)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OC(Cl)C2O3)cc1", "products": "O=C1C2C3OC(F)(OC3Cl)C12"}, {"reactants": "O=C1C2C3OC(F)(OC3Cl)C12.[O-]C", "products": "COC1([O-])C2C3OC(F)(OC3Cl)C21"}, {"reactants": "COC1([O-])C2C3OC(F)(OC3Cl)C21.CO", "products": "COC(=O)C1CC2OC1(F)OC2Cl"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cccc(F)c1)C1C2CCC1C2", "products": "[O][C](c1cccc(F)c1)C1C2CCC1C2"}, {"reactants": "[O][C](c1cccc(F)c1)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cccc(F)c1"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cccc(F)c1", "products": "OC(=CC1C=CCC1)c1cccc(F)c1"}, {"reactants": "OC(=CC1C=CCC1)c1cccc(F)c1", "products": "O=C(CC1C=CCC1)c1cccc(F)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)C)c([Si](C)(C)C)c(OC)c1=C", "products": "COc1c2c(c(OC)c([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1Cl.[H+]", "products": "Cc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1Cl"}, {"reactants": "Cc1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1Cl", "products": "Cc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1Cl.O"}, {"reactants": "Cc1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1Cl", "products": "Cc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1Cl"}, {"reactants": "Cc1cccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1Cl", "products": "CC1=C(c2cccc(C)c2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C)c2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(C)c2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C)c2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1Cl"}, {"reactants": "Cc1cccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1Cl", "products": "Cc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1Cl"}, {"reactants": "Cc1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1Cl", "products": "Cc1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1Cl.[H+]"}]}
